US06046208
b) Ethyl 4-dibenzylaminocyclohexanecarboxylate
To a solution of the product of the preceding reaction (13.46 g, 79.2 mmol), dibenzylamine (17.3 mL, 87.1 mmol) and dichloroethane (270 mL) was added NaBH(OAc)3 (23.5 g, 111 mmol) followed by HOAc (4.51 mL) and the resulting mixture was stirred under Ar for 16 h and then poured into EtOAc (1.5 L) and 10% aq NaOH (200 mL), the mixture was shaken and the phases were separated. After an additional extraction with EtOAc, the combined organic phases were washed with satd aq NaCl, dried (K2CO3) concentrated and the residual oil was filtered through silica with CH2Cl2 to afford 20.13 g (72%) of a waxy solid. MS ES (+) m/e=352 (MH+). 1H NMR (CDCl3): d 4.02 (q, CH2O cis), 3.98 (q, CH2O trans). Integration of the 2 quartets attributed to the ethoxycarbonyl CH2s indicates a ca 45:55 ratio of the isomers.

reactant | dibenzylamine | 87.1 mmol, 17.3 mL | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | dichloroethane | 270 mL | ClC(C)Cl | C2H4Cl2
reactant | NaBH(OAc)3 | 111 mmol, 23.5 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 200 mL | [OH-].[Na+]
solvent | EtOAc | 1.5 L | CCOC(=O)C | C4H8O2
solvent | HOAc | 4.51 mL | CC(=O)O | C2H4O2
product | Ethyl 4-dibenzylaminocyclohexanecarboxylate | C(C1=CC=CC=C1)N(C1CCC(CC1)C(=O)OCC)CC1=CC=CC=C1 | C23H29NO2
